US07148357B2
50 mg (0.11 mmol) of N-[2-(2-methoxy-ethyl)-2H-indazol-5-yl]-2-{[2-(3-methyl-ureido)-pyridin-4-ylmethyl]-amino}-benzamide is introduced into 5 ml of methylene chloride and mixed drop by drop under argon and in a moisture-free environment at −78° C. with 0.56 ml of boron tribromide (1 molar in methylene chloride). It is stirred for 15 more minutes, the cold bath is removed, and it then is stirred for 2 more hours. Then, it is mixed with water, the methylene chloride is drawn off, made alkaline with sodium bicarbonate solution and extracted twice with 15 ml each of ethyl acetate. The collected organic phase is dried, filtered, and concentrated by evaporation. The residue is chromatographed on silica gel with a gradient of methylene chloride:ethanol=100:0 to 90:10 as an eluant, and 27 mg of N-[2-(2-hydroxy-ethyl)-2H-indazol-5-yl]-2-{[2-(3-methyl-ureido)-pyridin-4-ylmethyl]-amino}-benzamide is obtained.

reactant | N-[2-(2-methoxy-ethyl)-2H-indazol-5-yl]-2-{[2-(3-methyl-ureido)-pyridin-4-ylmethyl]-amino}-benzamide | 0.11 mmol, 50 mg | COCCN1N=C2C=CC(=CC2=C1)NC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)NC)=O | C25H27N7O3
reactant | boron tribromide | 1 molar, 0.56 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(2-hydroxy-ethyl)-2H-indazol-5-yl]-2-{[2-(3-methyl-ureido)-pyridin-4-ylmethyl]-amino}-benzamide | 27 mg | OCCN1N=C2C=CC(=CC2=C1)NC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)NC)=O | C24H25N7O3
